US06734301B2
A solution of 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole hydrochloride (557 mg, 2.5 mmol) in dichloromethane (25 mL) is treated with triethylamine (0.77 mL, 5.5 mmol) followed by cooling to 0° C. The clear golden solution is treated with the trifluoroacetic acid anhydride (0.39 mL, 2.8 mmol) with a smoke/haze forming. After 15 min, the reaction mixture is diluted with additional dichloromethane (25 mL), washed once with water (25 mL), once with brine (25 mL), dried over MgSO4, filtered, and concentrated to give a crude solid. This material is purified by LC (230-400 silica gel) eluting with 25:5:70 dichloromethane/ethyl acetate/heptane to afford 607 mg of 2,2,2-trifluoro-1-(1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl)-1-ethanone as a white solid. IR (drift) 1691, 1464, 1449, 1368, 1292, 1203, 1196, 1171, 1161, 1139, 970, 782, 749, 743, 651 cm−1; MS (EI) m/z 282 (M+).

reactant | 2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole hydrochloride | 2.5 mmol, 557 mg | Cl.C1CNCCN2C1=CC=1C=CC=CC21
reactant | triethylamine | 5.5 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 2.8 mmol, 0.39 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-1-(1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl)-1-ethanone | 607 mg | FC(C(=O)N1CCN2C(=CC=3C=CC=CC23)CC1)(F)F | C14H13F3N2O
